US04423064
A 250 milliliter flask was equipped with a magnetic stirrer, reflux condenser and nitrogen inlet. Into the flask was added 8.44 grams (0.05 mol) of ethyl 2-isopropyl-3-methyl-4-pentynoate prepared in Part B, 5.56 grams (0.14 mol) of sodium hydroxide, 20 milliliters of ethanol and 20 milliliters of water. Following three days of continuous refluxing and stirring under nitrogen, the reaction mixture was cooled to room temperature, diluted with three times its volume of water and extracted twice with ether. Ice was added to the aqueous phase and it was acidified with 3 N HCl, then extracted three times with ether. The ether was washed twice with water, dried (MgSO4) and removed under vacuum to give 5.87 grams (0.04 mol) of 2-isopropyl-3-methyl-4-pentynoic acid having the appearance of a light yellow oil.

reactant | ethyl 2-isopropyl-3-methyl-4-pentynoate | 0.05 mol, 8.44 grams | C(C)(C)C(C(=O)OCC)C(C#C)C | C11H18O2
reactant | sodium hydroxide | 0.14 mol, 5.56 grams | [OH-].[Na+]
reactant | ethanol | 20 milliliters | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 20 milliliters | O | H2O
product | 2-isopropyl-3-methyl-4-pentynoic acid | 0.04 mol, 5.87 grams | C(C)(C)C(C(=O)O)C(C#C)C | C9H14O2
